US07358268B2
(ii) 3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid
A suspension of 200 mg 3H-Imidazole-4-carboxylic acid methyl ester, 396 mg), 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide and 220 mg K2CO3 in 2 ml DMF was stirred for 16 h at RT. The solvent was removed under reduced pressure and the precipitate dissolved in 5 ml THF/water 2:1. Then, 1.5 ml KOH 10% was added at RT and the reaction mixture was stirred for 16 h. Finally, 3 ml of halfconcentrated hydrochloric acid was added to precipitate the acid as a white solid. Yield: 260 mg.

reactant | 3H-Imidazole-4-carboxylic acid methyl ester | 200 mg | COC(=O)C=1NC=NC1 | C5H6N2O2
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | K2CO3 | 220 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1C=NC=C1C(=O)O | C11H9ClN4O3
